US07648985B2
(iv) 3-Fluoro-4-hydroxy-benzonitrile
BBr3 (23 ml, 0.242 mol) was added to 3-Fluoro-4-methoxy-benzonitrile (24.4 g, 0.16 mol) in dichloromethane (200 ml) at −78° C. and stirring continued overnight at room temperature. Another portion of BBr3 (23 ml, 0.242 mol) was added at −78° C. and stirring continued at RT for 2 days under nitrogen atmosphere. The reaction mixture was quenched with ice water and extracted with dichloromethane. Organic layer was washed with water and brine, and dried over sodium sulfate. Solvent evaporation under reduced pressure gave 20 g of the sub-title compound as a solid. This was taken for next step without further purification.

reactant | BBr3 | 0.242 mol, 23 ml | B(Br)(Br)Br | BBr3
reactant | 3-Fluoro-4-methoxy-benzonitrile | 0.16 mol, 24.4 g | FC=1C=C(C#N)C=CC1OC | C8H6FNO
reactant | BBr3 | 0.242 mol, 23 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-Fluoro-4-hydroxy-benzonitrile | 20 g | FC=1C=C(C#N)C=CC1O | C7H4FNO
